* C:\Users\ryota\Documents\JPE_circuit_model\simulation\simple_resonant\simple_resonant_modified_1.asc
V1 out 0 AC 1 DC 0
R1 out 0 20n
L1 out 0 1m
C1 out 0 100n
.ac dec 100 1 100k
.meas AC Gain MAX mag(V(out))
.backanno
.end
